### PR TITLE
Longest common prefixes and suffixes

### PR DESCRIPTION
**Pull request by wkolowski**
For SUMO we need a function that computes longest common suffixes of states. The simplest way to implement it is to lift an analogous function that does the same for lists.

In this PR I define a function that compute longest common prefixes and use it to implement a function that computes longest common suffixes. Both come with some handy lemmas and a specification.

### CODE REVIEW

File: theories/VLSM/Lib/ListExtras.v [hunk 1]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+  forall {A : Type} `{EqDecision A} (l l1 l2 p r1 r2 : list A),
+    longest_common_prefix l1 l2 = (p, r1, r2) ->
+      longest_common_prefix (l ++ l1) (l ++ l2) = (l ++ p, r1, r2).
+Proof.
+  induction l as [| h t]; cbn; intros * Heq; [done |].
+  rewrite decide_True by done.
+  by apply IHt in Heq as ->.
+Qed.
+
+Lemma longest_common_prefix_app' :
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1625]: I think it's bad practice to just add a prime/tick to an existing name. Unless there are established conventions, there is no way to know exactly what the prime/tick is supposed to mean. I think there are two options here:

- keep the tick/prime but add a `#[local]` attribute so the lemma can't be easily used outside the module
- come up with a better and and more descriptive name

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+Lemma longest_common_suffix_diag :
+  forall {A : Type} `{EqDecision A} (l : list A),
+    longest_common_suffix l l = (l, [], []).
+Proof.
+  intros.
+  unfold longest_common_suffix.
+  by rewrite longest_common_prefix_diag, reverse_involutive; cbn.
+Qed.
+
+Lemma longest_common_suffix_app' :
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1731]: As for `longest_common_prefix_app'`, I think this is a bad name, and there are two me two options:

- keep the tick/prime but add a `#[local]` attribute so the lemma can't be easily used outside the module
- come up with a better and and more descriptive name

File: theories/VLSM/Lib/ListExtras.v [hunk 3]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+Proof.
+  induction l1 as [| h1 t1]; destruct l2 as [| h2 t2]; cbn;
+    only 1-3: intros * [= <- <- <-]; cbn; [done.. |].
+  intros p r1 r2.
+  destruct (longest_common_prefix t1 t2) as [[]] eqn: Heq.
+  destruct (decide (h1 = h2)); subst; intros [= <- <- <-]; cbn.
+  - by apply IHt1 in Heq.
+  - by rewrite decide_False.
+Qed.
+
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1717]: There is already a notion of "prefix" in stdpp: https://gitlab.mpi-sws.org/iris/stdpp/-/blob/6e560df6564ceefda86ddfae12368c1ba3711ef5/stdpp/list.v#L291

To validate, please connect your definitions/results to the stdpp one.

File: theories/VLSM/Lib/ListExtras.v [hunk 4]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+    destruct (longest_common_prefix (reverse l1) (reverse l2)) as [[]] eqn: Heq.
+    apply longest_common_prefix_spec in Heq as (Heq1 & Heq2 & H).
+    apply (f_equal reverse) in Heq1, Heq2.
+    rewrite reverse_involutive in Heq1, Heq2.
+    rewrite Heq1, Heq2, !reverse_app.
+    intros [= <- <- <-].
+    split_and!; [done.. |].
+    rewrite !last_reverse.
+    by destruct H as [[-> ->] |]; cbn; [left | right].
+Qed.
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1774]: There is already a notion of "suffix" in stdpp: https://gitlab.mpi-sws.org/iris/stdpp/-/blob/6e560df6564ceefda86ddfae12368c1ba3711ef5/stdpp/list.v#L290

To validate, please connect your definitions/results to the stdpp one.

File: theories/VLSM/Lib/ListExtras.v [hunk 5]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+(** ** Computing longest common prefixes and suffixes *)
+
+(**
+  [longest_common_prefix] computes the longest common prefix of two lists
+  together with the suffixes that result from removing this prefix from
+  these lists, i.e. <<longest_common_prefix l1 l2 = (l, r1, r2)>> if and only
+  if <<l1 = l ++ r1>>, <<l2 = l ++ r2>> and <<l>> is the longest list that
+  satisfies these conditions.
+*)
+Fixpoint longest_common_prefix `{EqDecision A} (l1 l2 : list A) : list A * list A * list A :=
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1575]: Since seemingly every definition/result has an `EqDecision` instance, why not organize them inside a single section with an `EqDecision A` context? This would also make it easier to split up this file later, since it's getting very big.

File: theories/VLSM/Lib/ListExtras.v [hunk 6]
```diff
@@ -1562,3 +1562,213 @@ Definition element_of_filter
...
+  induction l1 as [| h1 t1]; destruct l2 as [| h2 t2]; cbn;
+    only 1-3: intros * [= <- <- <-]; cbn; [done.. |].
+  intros p r1 r2.
+  destruct (longest_common_prefix t1 t2) as [[]] eqn: Heq.
+  destruct (decide (h1 = h2)); subst; intros [= <- <- <-]; cbn.
+  - by apply IHt1 in Heq.
+  - by rewrite decide_False.
+Qed.
+
+Definition longest_common_suffix `{EqDecision A} (l1 l2 : list A) : list A * list A * list A :=
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1718]: As for the prefix definition, why not put all suffix definitions inside a single section for easier maintenance and less repetition?

**Review by palmskog — COMMENTED** [review]
Please address my comments.

File: theories/VLSM/Lib/ListExtras.v (hunk 1 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1625]: The lemma is certainly not local. As for a better name, any ideas? `longest_common_prefix_app` is quite a good name, but there are two versions of it: one has an equational hypothesis and one that uses a `let` instead. For now I'll rename the latter into something like `longest_common_prefix_app_let`, but it's not very satisfying. @traiansf suggested `longest_common_prefix_app_rew`, but it's not perfect either.

Do you know if there is any naming convention used anywhere for lemmas that are derived from others by replacing some part of it with equational hypotheses?

File: theories/VLSM/Lib/ListExtras.v (hunk 2 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1731]: I'm renaming it into `longest_common_prefix_app_let` for now.

File: theories/VLSM/Lib/ListExtras.v (hunk 5 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1575]: Ok, I will put it in a separate section with `A` and `EqDecision A` in a `Context` block.

File: theories/VLSM/Lib/ListExtras.v (hunk 2 above)
Comment (palmskog) [reply theories/VLSM/Lib/ListExtras.v:1731]: `longest_common_prefix_app_let` is fine by me, at least it can't easily be mistaken for `longest_common_prefix_app`. Works also for suffix.

File: theories/VLSM/Lib/ListExtras.v (hunk 6 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1718]: Same as above, it'll get its own section.

File: theories/VLSM/Lib/ListExtras.v (hunk 4 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1774]: Sadly it can't be used for computation, as it lives in `Prop`.

I added 3 lemmas to relate `longest_common_prefix` with stdpp's `prefix` and another 3 to do the same for `longest_common_suffix` and stdpp's `suffix`.

File: theories/VLSM/Lib/ListExtras.v (hunk 3 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1717]: Sadly it can't be used for computation, as it lives in `Prop`.

I added 3 lemmas to relate `longest_common_prefix` with stdpp's `prefix`.

File: theories/VLSM/Lib/ListExtras.v (hunk 4 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1774]: As above, I added 3 lemmas to relate `longest_common_suffix` and stdpp's `suffix`.

File: theories/VLSM/Lib/ListExtras.v [hunk 7]
```diff
@@ -1715,33 +1724,75 @@ Proof.
...
+Proof.
+  intros * Hprefix.
+  apply longest_common_prefix_spec in Hprefix as (-> & -> & _).
+  by split; apply prefix_app_r.
+Qed.
+
+Lemma longest_common_prefix_is_longest :
+  forall (l l1 l2 : list A),
+    prefix l l1 -> prefix l l2 ->
+      let '(p, r1, r2) := longest_common_prefix l1 l2 in prefix l p.
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1740]: Viewed in isolation, this is fine as lemma statement, but the name is confusing to me - I don't see anything that is "longest". If you don't intend to state that other prefixes are as long or longer in terms of list length, then maybe `prefix_longest_common_prefix` would be better.

File: theories/VLSM/Lib/ListExtras.v [hunk 8]
```diff
@@ -1772,3 +1823,36 @@ Proof.
...
+Proof.
+  intros * Hsuffix.
+  apply longest_common_suffix_spec in Hsuffix as (-> & -> & _).
+  by split; apply suffix_app_r.
+Qed.
+
+Lemma longest_common_suffix_is_longest :
+  forall (l l1 l2 : list A),
+    suffix l l1 -> suffix l l2 ->
+      let '(p, r1, r2) := longest_common_suffix l1 l2 in suffix l p.
```
Comment (palmskog) [inline theories/VLSM/Lib/ListExtras.v:1840]: As per above, `suffix_ longest_common_suffix` might be a better name.

**Review by palmskog — APPROVED** [review]
This looks much more reasonable now, but take a look at some final comments.

File: theories/VLSM/Lib/ListExtras.v (hunk 7 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v:1740]: Well, it's saying that all prefixes of `l1` and `l2` are also prefixes of their common prefix `p`, so `p` must be the longest such prefix. Maybe my perception is biased by category theory, but I think it's not that confusing.

Anyway, I'll take your name, since this lemma probably won't be used anywhere.

File: theories/VLSM/Lib/ListExtras.v (hunk 8 above)
Comment (wkolowski) [reply theories/VLSM/Lib/ListExtras.v]: Changed.
